2195-02-11 09:34:00 Physician Attending Progress Note
Chief Complaint: Brisk upper bleed likely source is left nasal passage.
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   24 Hour Events:
 CORDIS/INTRODUCER - START [**2195-2-11**] 02:03 AM
 BLOOD CULTURED - At [**2195-2-11**] 03:00 AM x2
 URINE CULTURE - At [**2195-2-11**] 03:00 AM
 ENDOSCOPY - At [**2195-2-11**] 03:00 AM
 EKG - At [**2195-2-11**] 04:48 AM
 A-line
   Hct didnot respond to 4U of PRBC 26 from 28. Also s/p 3U FFP.
   lactate stable at 2.8
   Allergies:
   Amoxicillin
   Unknown;
   Codeine
   Unknown;
   Last dose of Antibiotics:
   Ciprofloxacin - [**2195-2-11**] 02:30 AM
   Meropenem - [**2195-2-11**] 03:30 AM
   Infusions:
   Octreotide - 50 mcg/hour
   Pantoprazole (Protonix) - 8 mg/hour
   Other ICU medications:
   Other medications:
   Propofol at 30, meropenem 1g iv q12, octreotide iv drip, chlorhexidine.
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2195-2-11**] 09:33 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**97**] AM
   Tmax: 37.3
C (99.2
   Tcurrent: 37.3
C (99.2
   HR: 129 (126 - 138) bpm
   BP: 135/78(91) {135/78(91) - 166/108(122)} mmHg
   RR: 20 (14 - 20) insp/min
   SpO2: 99%
   Heart rhythm: ST (Sinus Tachycardia)
           Total In:
           6,754 mL
   PO:
           TF:
   IVF:
   1,771 mL
   Blood products:
   983 mL
   Total out:
                                                                      0 mL
                                                                  1,220 mL
   Urine:
   620 mL
   NG:
   600 mL
   Stool:
   Drains:
   Balance:
                                                                      0 mL
                                                                  5,534 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 20
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 19
   PIP: 18 cmH2O
   Plateau: 18 cmH2O
   SpO2: 99%
   ABG: 7.43/47/446/28/6
   Ve: 9.7 L/min
   PaO2 / FiO2: 1,115
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, balloon in
   left nare, with edema or left alae
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Breath Sounds: Clear : anteriorly)
   Abdominal: Soft, Non-tender, Distended, evidence for ascites
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent, I/O line in left leg
   Skin:  Warm
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Tone: Not assessed
   Labs / Radiology
   8.4 g/dL
   80 K/uL
   144 mg/dL
   0.6 mg/dL
   28 mEq/L
   3.9 mEq/L
   17 mg/dL
   109 mEq/L
   142 mEq/L
   26.2 %
   10.9 K/uL
        [image002.jpg]
                             [**2195-2-11**]  02:00 AM
                             [**2195-2-11**]  05:26 AM
                             [**2195-2-11**]  07:55 AM
   WBC
   10.9
   Hct
   26.3
   26.2
   Plt
   80
   Cr
   0.6
   TCO2
   32
   Glucose
   144
   Other labs: PT / PTT / INR:18.1/27.8/1.6, ALT / AST:64/144, Alk Phos /
   T Bili:112/7.9, Differential-Neuts:82.2 %, Lymph:11.8 %, Mono:5.0 %,
   Eos:0.9 %, D-dimer:2541 ng/mL, Fibrinogen:205 mg/dL, Lactic Acid:2.8
   mmol/L, Albumin:1.9 g/dL, LDH:252 IU/L, Ca++:6.4 mg/dL, Mg++:1.4 mg/dL,
   PO4:2.4 mg/dL
   Imaging: CXR clear
   Assessment and Plan
 Inability to protect airway/aspiration risk: after taggered RBC scan,
   if no evidence for active bleeding, will wean propofol and switch to
   pressure support for rapid extuabtion.
 Massive bleed/ EPISTAXIS (NOSEBLEED): LIkely traumatic secondary to
   NG tube placement, in the setting of caogulopathy from cirrhosis and
   regular motrin use for pain. Now s/p balloon placement. Will follow up
   ENT recommendations. Nasal alae on the left appears edematous ? need to
   decreased pressure on the balloon. Will obtained tagged RBC scan given
   hct not responding per NeuroIR. Transfuse 2 more units of PRBC. Follow
   up hct q6hours. Will give more FFP, goal INR <1.5, will hold off on FFP
   now. plt >50. Fib >100
 Varices: possibly recently bled, still with large size varices
   despite TIPS. Will continue octroetide. Obtain formal ultrasoudn for
   TIPS evaluation. On Meropenem that covers for SBP prophylaxis
 Duodenal ulcer: s/p injection, not actively bleeding. decrease ppi to
   iv bid if ok with GI. Hold NSAIDs.
 ?cholecystitis: per [**Hospital1 2570**]/[**Hospital1 **] notes, Will obtain RUQ here, will
   obtain [**Hospital1 2570**] MRCP report, continue meropenem for now pending these
   results.
 Hematuria: none currently will follow
 Liver disease: send AMA, [**Doctor First Name **].
  Social: patient is in jail and currently not allowed to be visited
   by family, police officer to accompany patient at all time.
   ICU Care
   Nutrition:
   Comments: NPO for now.
   Glycemic Control:
   Lines:
   Cordis/Introducer - [**2195-2-11**] 02:03 AM
   22 Gauge - [**2195-2-11**] 02:04 AM
   18 Gauge - [**2195-2-11**] 02:05 AM
   Comments: will need to remove IO, and resite cords as it is in the
   groin over the next 24hours.
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 60 minutes
   Patient is critically ill

2195-02-12 06:20:00 Physician Resident Progress Note
This is a 42 year-old male with a history of HCV cirrhosis s/p TIPS
   [**2182**] for variceal bleeding who presents from prison to [**Hospital1 251**] with
   hematuria, dysuria, back pain, abdominal pain, jaundice x 2 months.  He
   underwent a CT-scan that reportly showed evidence of varices of the
   spleen & esophagus, cirrhosis with question of a mass, and soft tissue
   density in the bladder in [**Month (only) 795**].  He had 3-4 visits to the hospital
   secondary to abdominal pain and was being treated with Motrin and
   tylenol for pain.  He was going to have an outpatient cystoscopy on
   [**2-6**], but was postponed due to abdominal pain.  He was admitted on 2/5s
   admitted to the [**Hospital1 251**] ICU with worsening lethargy, tachypnea, low
   grade fevers and question hepatic encephalopathy.  He was also being
   treated for possible cholecystitis with meropenem and underwent an
   MRCP, read still pending at [**Hospital1 2570**]. He had a NGT placed for unclear
   reasons that caused nose bleeding and coughing up blood.  Today the
   patient developed hematemesis with a large amount of frank blood (~2L).
   He was intubated in the ICU and transferred to [**Hospital1 5**] ED.
   Epistaxis (Nosebleed)
   Assessment:
   Pt. has been packed in his left nare for over 36 hours.  No sign of
   current bleeding.  However last HCT at 0100 was 29.  This nare remains
   tamponade with balloon device. Baseline HCT of 35 at outside
   hospital.
   Action:
   Pt. remains HD stable.  Urine output greater than 30ml/hr.  Continued
   on Meropenum.
   Response:
   Still unclear if there was some variceal bleed involved in addition to
   the nose bleed.  *Note
 still suctioning dark red clots from back of
   throat.  Team assessed the bleeding.  No intervention at that time.
   Plan:
   Monitor  HCT q6h with possible red tag study if pt. rebleeds.  VS
   remains stable.  Continues on sedation.  Appears comfortably sedated.
   Possibility of being extubated today  if remains stable.
   Pt. is a  prisoner with guard at bedside. No visitors allowed to visit
   until approved by guards. Pt. has been weaned from previous vent
   settings, questionable plan for extubation today. Propofol gtt has been
   weaned from 30-20-10mcq. Pt. continues to receive Lactulose enema for
   questionalble encephopathy.
   TITLE:
   Chief Complaint:
   24 Hour Events:
   GI:Start lactulose per rectum QID, continue octreotide, get U/S to
   evaluate for ascites, check AFP
   AFP=[**Numeric Identifier 11469**]
   HCV Viral Load: 70,000
   ENT:Keep balloon in place until [**2-16**]- came by this morning and need to
   adjust balloon this aftenroon b/c slipping too far back
   Currently off sedation on trial of PSV
   Tagged RBC Scan:entirely negative
   Liver U/S:TIPS looks patent, velocity in reasonable range, numerous
   nodular structures in the liver
   OSH Records/MRCP:Put on Meropenem empirically for concern that patient
   looking more toxic/encephalpathic
   MRCP: 2/8/09Impression: Extensive multifocal HCC, signal abnormality in
   liver (majority of right lobe) causing biliary ductal dilation in right
   lobe w/extension of this mass into the portal vein. Very cirrhotic
   heterogenous liver with multiple nodules, concerning aspect is the
   signal abnormality invasing the veins but also with mass effect on the
   biliary ducts. Has TIPS; low signal in the TIP shunt at the portal
   venous end; TIPS might be partially occluded; get U/S to confirm
   thrombus. Distension/thickening of GB wall (can see this in cirrhosis
   vs CCY but no reason to think of acute ccy), has varices, small amount
   of ascites
   8am Hct 26-->2Uprbcs, 1FFP
   2pm Hct/INR:30.4, Plts 61, repleted Ionized Ca
   Midnight: Hct 29.3 Plts 72
 NUCLEAR MEDICINE - At [**2195-2-11**] 11:30 AM
   Allergies:
   Amoxicillin
   Unknown;
   Codeine
   Unknown;
   Last dose of Antibiotics:
   Ciprofloxacin - [**2195-2-11**] 02:30 AM
   Meropenem - [**2195-2-12**] 02:12 AM
   Infusions:
   Propofol - 10 mcg/Kg/min
   Pantoprazole (Protonix) - 8 mg/hour
   Octreotide - 50 mcg/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2195-2-12**] 06:18 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**97**] AM
   Tmax: 37.6
C (99.6
   Tcurrent: 37.4
C (99.4
   HR: 124 (118 - 129) bpm
   BP: 129/68(81) {127/67(81) - 133/74(88)} mmHg
   RR: 23 (17 - 23) insp/min
   SpO2: 98%
   Heart rhythm: ST (Sinus Tachycardia)
             Total In:
                                                                  8,728 mL
                                                                    421 mL
   PO:
             TF:
   IVF:
                                                                  2,745 mL
                                                                    421 mL
   Blood products:
                                                                  1,983 mL
   Total out:
                                                                  2,350 mL
                                                                    270 mL
   Urine:
                                                                  1,750 mL
                                                                    270 mL
   NG:
                                                                    600 mL
   Stool:
   Drains:
   Balance:
                                                                  6,378 mL
                                                                    151 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 20
   RR (Spontaneous): 1
   PEEP: 5 cmH2O
   FiO2: 40%
   PIP: 11 cmH2O
   SpO2: 98%
   ABG: 7.54/37/140//9
   Ve: 12.4 L/min
   PaO2 / FiO2: 350
   Physical Examination
   GEN: intubted and sedated. Pt with bright red blood from oropharynx. Pt
   with epistaxsis balloon in place.
   HEENT: PERRL, sclera icteric, epistaxsis balloon in place
   NECK: No JVD, trachea midline
   COR: tachycardic, no M/G/R, normal S1 S2
   PULM: Lungs CTAB, no W/R/R
   ABD: Soft, NT, ND, +BS, no HSM, no masses
   EXT: No C/C/E. IO in left leg
   Labs / Radiology
   72 K/uL
   10.3 g/dL
   144 mg/dL
   0.6 mg/dL
   28 mEq/L
   3.9 mEq/L
   17 mg/dL
   109 mEq/L
   142 mEq/L
   29.3 %
   10.2 K/uL
        [image002.jpg]
                             [**2195-2-11**]  02:00 AM
                             [**2195-2-11**]  05:26 AM
                             [**2195-2-11**]  07:55 AM
                             [**2195-2-11**]  05:19 PM
                             [**2195-2-12**]  01:30 AM
                             [**2195-2-12**]  06:08 AM
   WBC
   10.9
   8.5
   9.1
   10.2
   Hct
   26.3
   26.2
   30.4
   29.3
   Plt
   80
   63
   61
   72
   Cr
   0.6
   TCO2
   32
   33
   Glucose
   144
   Other labs: PT / PTT / INR:16.5/27.8/1.5, ALT / AST:64/144, Alk Phos /
   T Bili:112/7.9, Differential-Neuts:82.2 %, Lymph:11.8 %, Mono:5.0 %,
   Eos:0.9 %, D-dimer:2541 ng/mL, Fibrinogen:221 mg/dL, Lactic Acid:2.8
   mmol/L, Albumin:1.9 g/dL, LDH:252 IU/L, Ca++:6.4 mg/dL, Mg++:1.4 mg/dL,
   PO4:2.4 mg/dL
   Assessment and Plan
   This is a 42 year-old male with a history of HCV cirrhosis s/p TIPS
   [**2182**] who presents with upper GI bleed.
   .
   Plan:
   #. Upper GI Bleed: Pt with hematemsis at [**Hospital1 251**] and was intubated.
   Pt with continued bleeding in the ED.  Pt with HCV cirrhosis s/p TIPS
   for prior variceal bleed in [**2182**].  Pt with large amout of bright red
   blood emesis ~2L at OSH. Pt blood pressure stable SBP 120's, but
   episodes of tachycardia.  Continued bleeding via the left nare s/p
   packing.  DDx: variceal bleed, posterior arterial epistaxsis, PUD,
   gastritis, [**Doctor First Name **]-[**Doctor Last Name **], esophagitis, vascular malformations. Unlikely
   aorto-enteric fistula.
   -- f/u GI recs regarding possible EGD tonight
   -- surgery is following, f/u recs
   -- ENT performed packing in [**Last Name (LF) **], [**First Name3 (LF) 124**] call formal consult in AM
   -- IV Protonix gtt
   -- Octreotide gtt
   -- Meropenem IV for ppx given cirrhosis
   -- place a-line
   -- Check Hct and transfuse to goal Hct > 30 given active bleeding and
   cross match 4U
   -- Transfuse FFP & Cryo to maintain fibrinogen > 200
   -- given active bleeding transfuse plt >50
   -- - IV fluid boluses and Levophed if needed to maintain MAP > 65 and
   UOP > 30cc/hr
   -- U/S to evaluate TIPS
   -- IO in place, will need to be changed within 24hrs
   .
   #. Respiratory Failure:  Pt intubated for airway protection.  Possible
   aspiration of blood during emesis although CXR clear on admission.
   -- place a-line and ABG
   -- cont ventilator setting, check ABG and wean FiO2 as tolerated
   -- Will sedate with propofol given liver disease and decreased
   metabolism of fentanyl/versed, but will switch if hypotensive.
   .
   #. DIC: Pt fibrinogen 93 and INR 1.8, although likely componenet of
   decreased synthetic function from liver disease
   -- trend coags/fibrinogen/d-dimer/
   -- transfuse FFP and cryo (maintain fibrinogen > 200)
   .
   #. HCV cirrhosis s/p TIPS. MELD of 13. U/S showed patent TIPS. There
   was question of hepatic mass per report
   -- f/u final RUQ U/S prelim patent TIPS, eval for ?mass
   -- check hep serologies
   -- check HCV VL
   -- will need to obtain prior records
   .
   #. Question Cholecystitis: Pt with question of cholecystitis at
   [**Hospital1 251**]. Reportly started on meropenem. Underwent MRCP at [**Hospital1 2570**], read
   still pending
   -- cont meropenem for now and narrow
   -- f/u MRCP read at [**Hospital1 2570**]
   .
   #. Hematuria: Pt with history of bladder mass and hematuria.  Pt was
   also being treated for "urosepsis"
   -- UA/ UCx
   -- U/S of bladder
   -- consider urology consult when stable
   -- Blood Cx
   -- Will cont Meropenem for now
   -- Obtain OSH records regarding micro and abx regimen
   .
   #. Thrombocytopenia: Likely [**2-3**] splenic sequestration in the setting of
   splenomegly from cirrhosis.
   -- transfuse pts > 50 given acitve bleeding
   -- cont to trend plts
   .
   # FEN: NPO
   .
   # Access: Right fem cordis, PIV x3
   .
   # PPx: bowel regimen prn, pneumoboots, IV PPI
   .
   # Code: Presumed FULL
   .
   # Dispo: ICU
   .
   # Comm: Family (Brother & Mother)- [**Telephone/Fax (1) 11449**]
 EPISTAXIS (NOSEBLEED)
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Cordis/Introducer - [**2195-2-11**] 02:03 AM
   22 Gauge - [**2195-2-11**] 02:04 AM
   18 Gauge - [**2195-2-11**] 05:17 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: H2 blocker
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2195-02-12 10:27:00 Physician Attending Progress Note
Chief Complaint: GI bleed.
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   24 Hour Events:
   Tagged RBC scan negative. AFP elevated at 21k, HCV 70k. MRCP showed
   extensive multifocal HCC, extension of the mass into the portal vein.
   TIPS with low signal, and decreased flow velocity by MRCP.
   Allergies:
   Amoxicillin
   Unknown;
   Codeine
   Unknown;
   Last dose of Antibiotics:
   Ciprofloxacin - [**2195-2-11**] 02:30 AM
   Meropenem - [**2195-2-12**] 08:30 AM
   Infusions:
   Propofol - 10 mcg/Kg/min
   Octreotide - 50 mcg/hour
   Pantoprazole (Protonix) - 8 mg/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2195-2-12**] 10:26 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**97**] AM
   Tmax: 37.8
C (100.1
   Tcurrent: 37.8
C (100.1
   HR: 126 (118 - 135) bpm
   BP: 129/68(81) {128/67(81) - 129/68(82)} mmHg
   RR: 19 (17 - 23) insp/min
   SpO2: 98%
   Heart rhythm: ST (Sinus Tachycardia)
             Total In:
                                                                  8,730 mL
                                                                    661 mL
   PO:
             TF:
   IVF:
                                                                  2,747 mL
                                                                    661 mL
   Blood products:
                                                                  1,983 mL
   Total out:
                                                                  2,350 mL
                                                                    455 mL
   Urine:
                                                                  1,750 mL
                                                                    455 mL
   NG:
                                                                    600 mL
   Stool:
   Drains:
   Balance:
                                                                  6,380 mL
                                                                    206 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: PSV/SBT
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 665 (549 - 665) mL
   PS : 5 cmH2O
   RR (Set): 20
   RR (Spontaneous): 26
   PEEP: 0 cmH2O
   FiO2: 40%
   RSBI: 31
   PIP: 6 cmH2O
   SpO2: 98%
   ABG: 7.54/34/144/30/7
   Ve: 13.8 L/min
   PaO2 / FiO2: 360
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL, icteric
   Head, Ears, Nose, Throat: Endotracheal tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Warm
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Tone: Not assessed, + gag
   Labs / Radiology
   10.5 g/dL
   76 K/uL
   140 mg/dL
   0.5 mg/dL
   30 mEq/L
   3.9 mEq/L
   27 mg/dL
   110 mEq/L
   143 mEq/L
   31.1 %
   11.0 K/uL
        [image002.jpg]
                             [**2195-2-11**]  02:00 AM
                             [**2195-2-11**]  05:26 AM
                             [**2195-2-11**]  07:55 AM
                             [**2195-2-11**]  05:19 PM
                             [**2195-2-12**]  01:30 AM
                             [**2195-2-12**]  05:54 AM
                             [**2195-2-12**]  06:08 AM
                             [**2195-2-12**]  09:26 AM
   WBC
   10.9
   8.5
   9.1
   10.2
   11.0
   Hct
   26.3
   26.2
   30.4
   29.3
   31.1
   Plt
   80
   63
   61
   72
   76
   Cr
   0.6
   0.5
   TCO2
   32
   33
   30
   Glucose
   144
   140
   Other labs: PT / PTT / INR:16.2/26.4/1.4, ALT / AST:64/144, Alk Phos /
   T Bili:112/7.9, Differential-Neuts:82.2 %, Lymph:11.8 %, Mono:5.0 %,
   Eos:0.9 %, D-dimer:2541 ng/mL, Fibrinogen:221 mg/dL, Lactic Acid:2.8
   mmol/L, Albumin:1.9 g/dL, LDH:252 IU/L, Ca++:7.8 mg/dL, Mg++:1.8 mg/dL,
   PO4:1.8 mg/dL
   Imaging: CXR: stable. no infiltrates. ETT in good postion.
   Assessment and Plan
   Altered mental status: likely secondary to encephalopathy, continue
   lactulose, he needs better access oral or nasal to his stomach for
   medication administration.
   HCC: will discuss with GI re prognosis, and discuss with state if we
   can discuss this finding with his family, to discuss code status.
   Respiratory failure: intubated for airway protection, tolerated SBT.
   GI bleed vs epistaxis: TIPS not functioning well, d/w GI need for
   variceal banding, and placement of NG/OG tube.
   Fever: ? sinusitis  on broad coverage adding vanco , change meropenem
   to levofloxacin.
   Access: place PICC when fever resolve.
   ICU Care
   Nutrition:
   Comments: pending Gastric access
   Glycemic Control:
   Lines:
   Cordis/Introducer - [**2195-2-11**] 02:03 AM
   22 Gauge - [**2195-2-11**] 02:04 AM
   Arterial Line - [**2195-2-11**] 03:00 AM
   18 Gauge - [**2195-2-11**] 05:17 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 40 minutes
   Patient is critically ill

2195-02-13 07:49:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 EKG - At [**2195-2-12**] 09:00 AM
 URINE CULTURE - At [**2195-2-12**] 03:20 PM
 BLOOD CULTURED - At [**2195-2-12**] 03:20 PM
   - Celled GI, will return and add prognosis
   - Heme Onc will see tomorrow after records are obtained
   - Records pending:
   [**Hospital1 251**]:
   CT Abdomen/Pelvis ([**12-19**])
   Fax ([**Telephone/Fax (1) 11506**]
   Forms faxed, requested overnight delivery to MICU 7 at 1400
   .
   [**Hospital1 1748**]:
   MRI Abdomen uploaded
   Family [**Name (NI) 11510**] Pt is DNR given grim prognosis
   GI placed NGT this morning
   Marginal UOP overnight; given albumin 1L fluid, 1 u prbcs and
   additional albumin this AM
   Allergies:
   Amoxicillin
   Unknown;
   Codeine
   Unknown;
   Last dose of Antibiotics:
   Ciprofloxacin - [**2195-2-11**] 02:30 AM
   Meropenem - [**2195-2-12**] 08:30 AM
   Levofloxacin - [**2195-2-12**] 12:30 PM
   Vancomycin - [**2195-2-12**] 08:00 PM
   Infusions:
   Octreotide - 50 mcg/hour
   Propofol - 10 mcg/Kg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2195-2-12**] 08:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2195-2-13**] 07:47 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**97**] AM
   Tmax: 37.8
C (100.1
   Tcurrent: 37.4
C (99.4
   HR: 109 (105 - 137) bpm
   BP: 144/62(81) {135/62(81) - 177/98(113)} mmHg
   RR: 16 (15 - 24) insp/min
   SpO2: 98%
   Heart rhythm: ST (Sinus Tachycardia)
           Total In:
                                                                  2,987 mL
                                                                    536 mL
   PO:
           TF:
   IVF:
                                                                  2,487 mL
                                                                    161 mL
   Blood products:
                                                                    500 mL
                                                                    375 mL
   Total out:
                                                                  1,008 mL
                                                                    273 mL
   Urine:
                                                                  1,008 mL
                                                                    273 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,979 mL
                                                                    263 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 606 (574 - 665) mL
   PS : 5 cmH2O
   RR (Spontaneous): 22
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 33
   PIP: 10 cmH2O
   SpO2: 98%
   ABG: 7.50/41/135/29/8
   Ve: 11.8 L/min
   PaO2 / FiO2: 338
   Physical Examination
   GEN: intubted and sedated. Pt with bright red blood from oropharynx. Pt
   with epistaxsis balloon in place.
   HEENT: PERRL, sclera icteric, epistaxsis balloon in place
   NECK: No JVD, trachea midline
   COR: tachycardic, no M/G/R, normal S1 S2
   PULM: Lungs CTAB, no W/R/R
   ABD: Soft, NT, ND, +BS, no HSM, no masses
   EXT: No C/C/E. IO in left leg
   Labs / Radiology
   50 K/uL
   10.0 g/dL
   131 mg/dL
   0.5 mg/dL
   29 mEq/L
   3.4 mEq/L
   33 mg/dL
   112 mEq/L
   145 mEq/L
   29.6 %
   6.3 K/uL
        [image002.jpg]
                             [**2195-2-11**]  07:55 AM
                             [**2195-2-11**]  05:19 PM
                             [**2195-2-12**]  01:30 AM
                             [**2195-2-12**]  05:54 AM
                             [**2195-2-12**]  06:08 AM
                             [**2195-2-12**]  09:26 AM
                             [**2195-2-12**]  02:15 PM
                             [**2195-2-13**]  12:16 AM
                             [**2195-2-13**]  05:21 AM
                             [**2195-2-13**]  05:29 AM
   WBC
   8.5
   9.1
   10.2
   11.0
   6.3
   Hct
   26.2
   30.4
   29.3
   31.1
   31.4
   27.2
   29.6
   Plt
   63
   61
   72
   76
   50
   Cr
   0.5
   0.5
   TCO2
   33
   30
   33
   Glucose
   140
   131
   Other labs: PT / PTT / INR:16.9/25.6/1.5, ALT / AST:104/221, Alk Phos /
   T Bili:94/14.9, Differential-Neuts:82.2 %, Lymph:11.8 %, Mono:5.0 %,
   Eos:0.9 %, D-dimer:2541 ng/mL, Fibrinogen:208 mg/dL, Lactic Acid:2.8
   mmol/L, Albumin:2.5 g/dL, LDH:290 IU/L, Ca++:7.5 mg/dL, Mg++:2.0 mg/dL,
   PO4:1.7 mg/dL
   Assessment and Plan
 EPISTAXIS (NOSEBLEED)
   This is a 42 year-old male with a history of HCV cirrhosis s/p TIPS
   [**2182**] who presents with epistaxis
   .
   Plan:
   #. Upper GI Bleed: Pt with hematemsis at [**Hospital1 251**] and was intubated.
   Pt with continued bleeding in the ED.  Pt with HCV cirrhosis s/p TIPS
   for prior variceal bleed in [**2182**].  Pt with large amout of bright red
   blood emesis ~2L at OSH. Pt blood pressure stable SBP 120's, but
   episodes of tachycardia.  Continued bleeding via the left nare s/p
   packing.  Patient underwent EGD which showed esophageal varicies with
   stigmata of recent bleed, but no active bleeding. Duodenal ulcer (no
   active bleeding) that was injected. He underwent tagged rbc scan which
   did not show active nasopharyngeal bleeding site nor any UGI/LGI bleed.
   Ultrasound showed TIPS is patent.. Currently presume bleed is
   nasopharyngeal in origin but likely had some variceal  bleeding, Hct
   and platelets trending down today and received 1Uprbcs overnight.
   -- Protonix IV BID, d/c octreotide gtt
   -- Continue serial Hct q6, transfuse<27
   --NP Balloon removed today during rounds
   --Resume nadolol today given NGT is now in place
   .
   #. HCV cirrhosis s/p TIPS. MELD of 13. MRCP showed extensive multifocal
   HCC and  concern for HCC mass  that may be compressing part of tips.
   HCV viral load 70K and AFP 21K. Given degree of HCC is not a transplant
   candidate. Currently has hepatic encepatholopathy as well.
   -Transplant and hepatology following, appreciate recs
   -Start PO lactulose now that ngt in place
   -Trend LFTs
   -Start Rifaxamin 400 TID today
   #Fever- Persistantly febrile, no clear source of infection although
   does have ascites in abdomen; ddx SBP vs pneumonia vs line infection.
   U/A negative.
   -Will add Flagyl
   -Continue levo/vanc
   -F/U culture data
   -D/C femoral cordis and send for culture
   -D/C Aline
   #. Respiratory Failure:  Pt intubated for airway protection.  Possible
   aspiration of blood during emesis although CXR clear on admission
   however spiked overnight and CXR appears to have possible evidence of
   aspiration pneumonia Currently doing well on [**5-6**]
   --Continue Vancomycin/Cefepime
   --MS prohibitive to SBT/extubation currently; thus giving lactulose to
   improve hepatic encephalopathy
   --Discuss with family code status prior to extubation
   #. DIC: Pt fibrinogen 93 and INR 1.8, likely [**2-3**] consumption
   coagulopathy
   -Add haptoglobin given dropping Hct and concern for hemolysis
   .
   .
   #. Thrombocytopenia: Likely [**2-3**] splenic sequestration in the setting of
   splenomegly from cirrhosis. Platelets 39 this AM
   -- transfuse pts > 50 given acitve bleeding
   -- cont to trend plts
   # FEN: NPO
   .
   # Access: Right fem cordis, PIV x3
   .
   # PPx: bowel regimen prn, pneumoboots, IV PPI
   .
   # Code: Presumed FULL
   -Discuss prognosis with GI
   -[**Month (only) 8**] discuss getting palliative care involved pending prognosis
   .
   # Dispo: ICU
   .
   # Comm: Family (Brother & Mother)- [**Telephone/Fax (1) 11449**]
   -Need additional family mtgs
   ICU Care
   Nutrition:
   NPO
   Glycemic Control:
   Lines: D/C cordis
   Cordis/Introducer - [**2195-2-11**] 02:03 AM
   22 Gauge - [**2195-2-11**] 02:04 AM
   Arterial Line - [**2195-2-11**] 03:00 AM
   18 Gauge - [**2195-2-11**] 05:17 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Need for restraints reviewed
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , Family
   meeting held , ICU consent signed Comments:
   Code status: DNR
   Disposition:ICU

2195-02-13 11:43:00 Physician Attending Progress Note
Chief Complaint: UGIB
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 EKG - At [**2195-2-12**] 09:00 AM
 URINE CULTURE - At [**2195-2-12**] 03:20 PM
 BLOOD CULTURED - At [**2195-2-12**] 03:20 PM
   Family meeting overnight, pt is DNR. Some leak around the ETT overnight
   when he was agitated that improved after reinitiation of Propofol.
   Febrile to 101.2 overnight
   Allergies:
   Amoxicillin
   Unknown;
   Codeine
   Unknown;
   Last dose of Antibiotics:
   Ciprofloxacin - [**2195-2-11**] 02:30 AM
   Meropenem - [**2195-2-12**] 08:30 AM
   Levofloxacin - [**2195-2-12**] 12:30 PM
   Vancomycin - [**2195-2-13**] 08:00 AM
   Infusions:
   Octreotide - 50 mcg/hour
   Propofol - 25 mcg/Kg/min
   Other ICU medications:
   Fentanyl - [**2195-2-13**] 06:15 AM
   Pantoprazole (Protonix) - [**2195-2-13**] 08:00 AM
   Other medications:
   octreotide drip, propofol drip, lactulose enema, pantoprazole iv, vanco
   and levofloxacin
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2195-2-13**] 11:42 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**97**] AM
   Tmax: 38.4
C (101.2
   Tcurrent: 38.4
C (101.2
   HR: 106 (101 - 137) bpm
   BP: 151/77(93) {135/62(81) - 177/98(113)} mmHg
   RR: 17 (15 - 24) insp/min
   SpO2: 99%
   Heart rhythm: ST (Sinus Tachycardia)
           Total In:
                                                                  2,987 mL
                                                                  1,169 mL
   PO:
           TF:
   IVF:
                                                                  2,487 mL
                                                                    594 mL
   Blood products:
                                                                    500 mL
                                                                    575 mL
   Total out:
                                                                  1,008 mL
                                                                    463 mL
   Urine:
                                                                  1,008 mL
                                                                    463 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,979 mL
                                                                    706 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 627 (584 - 627) mL
   PS : 5 cmH2O
   RR (Spontaneous): 17
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 33
   PIP: 11 cmH2O
   SpO2: 99%
   ABG: 7.50/41/135/29/8
   Ve: 10.6 L/min
   PaO2 / FiO2: 338
   Physical Examination
   Peripheral Vascular: (Right radial pulse: present), (Left radial pulse:
   present), (Right DP pulse: present), (Left DP pulse: present
   Skin:  warm
   Neurologic: unresponsive, sedated
   LE edema bilateral LE,
   S1, s2, RR tachy
   Lungs clear anteriorly
   Abdomen with ascites and soft.
   Labs / Radiology
   10.0 g/dL
   50 K/uL
   131 mg/dL
   0.5 mg/dL
   29 mEq/L
   3.4 mEq/L
   33 mg/dL
   112 mEq/L
   145 mEq/L
   29.6 %
   6.3 K/uL
        [image002.jpg]
                             [**2195-2-11**]  07:55 AM
                             [**2195-2-11**]  05:19 PM
                             [**2195-2-12**]  01:30 AM
                             [**2195-2-12**]  05:54 AM
                             [**2195-2-12**]  06:08 AM
                             [**2195-2-12**]  09:26 AM
                             [**2195-2-12**]  02:15 PM
                             [**2195-2-13**]  12:16 AM
                             [**2195-2-13**]  05:21 AM
                             [**2195-2-13**]  05:29 AM
   WBC
   8.5
   9.1
   10.2
   11.0
   6.3
   Hct
   26.2
   30.4
   29.3
   31.1
   31.4
   27.2
   29.6
   Plt
   63
   61
   72
   76
   50
   Cr
   0.5
   0.5
   TCO2
   33
   30
   33
   Glucose
   140
   131
   Other labs: PT / PTT / INR:16.9/25.6/1.5, ALT / AST:104/221, Alk Phos /
   T Bili:94/14.9 (6.4 on admission), Differential-Neuts:82.2 %,
   Lymph:11.8 %, Mono:5.0 %, Eos:0.9 %, D-dimer:2541 ng/mL, Fibrinogen:208
   mg/dL, Lactic Acid:2.8 mmol/L, Albumin:2.5 g/dL, LDH:290 IU/L, Ca++:7.5
   mg/dL, Mg++:2.0 mg/dL, PO4:1.7 mg/dL
   Imaging: CXR Clear, ETT is high.
   Assessment and Plan
Encephalopathy: start lactulose, continue low dose propofol due to
   biting and agitation off of it, until he has received at least 1-2 days
   of lactulose
HCC: extremely poor prognosis, no therapeutic options. Discussed with
   GI and oncology.
Decreased uring output: improved with IVF. Will start on maintenance
   IVF.
Fever: will send urine, repeat blood, and stool culture. To cover
   potential SBP will continue levofloxacin and add flagyl. d/c cordis,
   d/c A-line place central line.
Respiratory failure: no clear source of pneumnia or consolidation,
   extubation is pending clearing of mental status. We will discuss with
   family given dismal HCC prognosis about terminal extubation.
 Epistaxis / UGI bleed: no active bleeding visible, but hct has been
   trending down, ? hemolysis, will send smear. Will trend hct. d/c
   octreotide. ENT
s input appreciated. Catheter has been removed from
   nose as no evidence of active bleeding and concern for necrosis
   (blanching of tissue seen). Follow Hct
Goals of care: will have a meeting with the family today, consult
   social work.
   ICU Care
   Nutrition:
   Comments: NPO
   Glycemic Control:
   Lines:
   Cordis/Introducer - [**2195-2-11**] 02:03 AM
   22 Gauge - [**2195-2-11**] 02:04 AM
   Arterial Line - [**2195-2-11**] 03:00 AM
   18 Gauge - [**2195-2-11**] 05:17 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2195-02-14 07:41:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   -Oncology: prognosis on the order of weeks
   -Hct 2pm: 24.5, haptoglobin 7
   -Hepatology recs: cont IV PPI, abx and octreotide x5 days, not enough
   ascites to tap, lactulose QID when able
   - UA positive, but Cx negative
   - family meeting: updated family regarding poor prognosis. Would like
   time for sisters to come visit him before removing tube. Pt 2 brothers
   are in prison and won't be able to visit. Per police only immediate
   family able to visit. Will plan to continue care for now (transfuse for
   Hct <21) and montior. No aggressive escalation, but maintain current
   care. Will need to re-address goals of care. Family still in shock over
   diagnosis.
 ENDOSCOPY - At [**2195-2-13**] 10:30 AM
   for NGT placement.
 ARTERIAL LINE - STOP [**2195-2-14**] 03:57 AM
 FEVER - 101.2
F - [**2195-2-13**] 08:00 AM
   Allergies:
   Amoxicillin
   Unknown;
   Codeine
   Unknown;
   Last dose of Antibiotics:
   Meropenem - [**2195-2-12**] 08:30 AM
   Levofloxacin - [**2195-2-13**] 12:00 PM
   Vancomycin - [**2195-2-13**] 08:27 PM
   Metronidazole - [**2195-2-14**] 12:08 AM
   Infusions:
   Propofol - 15 mcg/Kg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2195-2-13**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2195-2-14**] 07:37 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**97**] AM
   Tmax: 38.4
C (101.2
   Tcurrent: 37.9
C (100.3
   HR: 72 (71 - 117) bpm
   BP: 124/62(73) {124/51(69) - 163/81(96)} mmHg
   RR: 16 (15 - 25) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  3,934 mL
                                                                    347 mL
   PO:
             TF:
   IVF:
                                                                  3,149 mL
                                                                    287 mL
   Blood products:
                                                                    575 mL
   Total out:
                                                                  1,283 mL
                                                                    390 mL
   Urine:
                                                                  1,283 mL
                                                                    390 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,651 mL
                                                                    -42 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 585 (530 - 593) mL
   PS : 5 cmH2O
   RR (Spontaneous): 16
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 29
   PIP: 11 cmH2O
   SpO2: 99%
   ABG: ///24/
   Ve: 8.8 L/min
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   25 K/uL
   8.3 g/dL
   108 mg/dL
   0.4 mg/dL
   24 mEq/L
   3.6 mEq/L
   25 mg/dL
   117 mEq/L
   149 mEq/L
   24.6 %
   2.2 K/uL
        [image002.jpg]
                             [**2195-2-12**]  06:08 AM
                             [**2195-2-12**]  09:26 AM
                             [**2195-2-12**]  02:15 PM
                             [**2195-2-13**]  12:16 AM
                             [**2195-2-13**]  05:21 AM
                             [**2195-2-13**]  05:29 AM
                             [**2195-2-13**]  10:19 AM
                             [**2195-2-13**]  02:36 PM
                             [**2195-2-13**]  09:28 PM
                             [**2195-2-14**]  02:50 AM
   WBC
   6.3
   3.2
   2.2
   Hct
   31.4
   27.2
   29.6
   27.7
   24.5
   25.8
   24.6
   Plt
   50
   39
   27
   25
   Cr
   0.5
   0.4
   TCO2
   33
   30
   33
   Glucose
   131
   108
   Other labs: PT / PTT / INR:17.4/27.7/1.6, ALT / AST:77/163, Alk Phos /
   T Bili:76/14.7, Differential-Neuts:73.8 %, Lymph:17.5 %, Mono:5.9 %,
   Eos:2.5 %, D-dimer:2541 ng/mL, Fibrinogen:208 mg/dL, Lactic Acid:2.8
   mmol/L, Albumin:2.5 g/dL, LDH:273 IU/L, Ca++:7.4 mg/dL, Mg++:2.2 mg/dL,
   PO4:1.7 mg/dL
   Assessment and Plan
   This is a 42 year-old male with a history of HCV cirrhosis s/p TIPS
   [**2182**] who presents with epistaxis
   .
   Plan:
   #. Upper GI Bleed: Pt with hematemsis at [**Hospital1 251**] and was intubated.
   Pt with continued bleeding in the ED.  Pt with HCV cirrhosis s/p TIPS
   for prior variceal bleed in [**2182**].  Pt with large amout of bright red
   blood emesis ~2L at OSH. Pt blood pressure stable SBP 120's, but
   episodes of tachycardia.  Continued bleeding via the left nare s/p
   packing.  Patient underwent EGD which showed esophageal varicies with
   stigmata of recent bleed, but no active bleeding. Duodenal ulcer (no
   active bleeding) that was injected. He underwent tagged rbc scan which
   did not show active nasopharyngeal bleeding site nor any UGI/LGI bleed.
   Ultrasound showed TIPS is patent.. Currently presume bleed is
   nasopharyngeal in origin but likely had some variceal  bleeding, Hct
   remains stable and no further bleeding.
   -- Protonix IV BID, Octreotide for 5D
   -- [**Hospital1 **] Hct, transfuse<21
   --Continue Nadolol
   .
   #. HCV cirrhosis s/p TIPS. MELD of 13. MRCP showed extensive multifocal
   HCC and  concern for HCC mass  that may be compressing part of tips.
   HCV viral load 70K and AFP 21K. Given degree of HCC is not a transplant
   candidate. Currently has hepatic encepatholopathy as well. Oncology
   consulted and felt prognosis very poor on the order of weeks
   -Transplant and hepatology following, appreciate recs
   -Continue Lactulose
   -Continue Rifaxamin
   #Fever- Persistantly febrile, no clear source of infection although
   does have ascites in abdomen; ddx SBP vs pneumonia vs line infection.
   U/A negative.
   -Continue Vanc/Levo/Flagyl
   -F/U culture data
   -A line removed
   -Will need to remove cordis
   #. Respiratory Failure:  Pt intubated for airway protection.  Possible
   aspiration of blood during emesis although CXR clear on admission
   however spiked overnight and CXR appears to have possible evidence of
   aspiration pneumonia Currently doing well on [**5-6**]
   --Continue Vancomycin/Cefepime/flagyl
   --Will have ongoing family discussion prior to removing tube although
   pts MS improving
   .
   .
   #. Thrombocytopenia: Likely [**2-3**] splenic sequestration in the setting of
   splenomegly from cirrhosis. Platelets 27
   -- holding on platelets given goals of care; readdress today before
   tranfusing
   .
   ICU Care
   Nutrition: NPO, plan for possible TF
   Glycemic Control:
   Lines:
   Cordis/Introducer - [**2195-2-11**] 02:03 AM
   22 Gauge - [**2195-2-11**] 02:04 AM
   18 Gauge - [**2195-2-11**] 05:17 PM
   Prophylaxis:
   DVT: pneumoboots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition:ICU
   ------ Protected Section ------
   Pt seen and evaluated with ICU team. Please see note above for details.
   In addition:
   42 yr man with Hep C Cirrhosis with hepatocellular CA now with UGI
   bleed and coincident resp failure.
   No real Rx options
 weeks/days survival. DNR status reviewed. Awaiting
   family visit before extubation and CMO.
   PE: Sedated, jaundiced
          Lungs clear anteriorly
          No edema
          Ecchymoses
   Time Spent: 45 min
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Last Name (NamePattern1) **], MD
   on:[**2195-2-14**] 09:54 ------

2195-02-15 07:33:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 INVASIVE VENTILATION - STOP [**2195-2-14**] 04:09 PM
   Extubated
   Decision made to be CMO; morphine started and changed to gtt
   Allergies:
   Amoxicillin
   Unknown;
   Codeine
   Unknown;
   Last dose of Antibiotics:
   Meropenem - [**2195-2-12**] 08:30 AM
   Metronidazole - [**2195-2-14**] 08:00 AM
   Vancomycin - [**2195-2-14**] 08:00 AM
   Levofloxacin - [**2195-2-14**] 12:00 PM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2195-2-14**] 08:00 AM
   Morphine Sulfate - [**2195-2-15**] 06:10 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2195-2-15**] 07:32 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**97**] AM
   Tmax: 37.9
C (100.3
   Tcurrent: 37.8
C (100
   HR: 70 (65 - 87) bpm
   BP: 150/78(96) {126/55(73) - 150/78(96)} mmHg
   RR: 9 (9 - 26) insp/min
   SpO2: 92%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  1,223 mL
                                                                     75 mL
   PO:
             TF:
   IVF:
                                                                    983 mL
                                                                     75 mL
   Blood products:
   Total out:
                                                                  1,045 mL
                                                                      0 mL
   Urine:
                                                                  1,045 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    178 mL
                                                                     75 mL
   Respiratory support
   O2 Delivery Device: Face tent
   Ventilator mode: Standby
   Vt (Spontaneous): 483 (483 - 574) mL
   PS : 5 cmH2O
   RR (Spontaneous): 24
   PEEP: 5 cmH2O
   FiO2: 35%
   SpO2: 92%
   ABG: ///25/
   Ve: 11.5 L/min
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   27 K/uL
   8.8 g/dL
   106 mg/dL
   0.5 mg/dL
   25 mEq/L
   3.4 mEq/L
   26 mg/dL
   116 mEq/L
   148 mEq/L
   25.7 %
   2.9 K/uL
        [image002.jpg]
                             [**2195-2-12**]  09:26 AM
                             [**2195-2-12**]  02:15 PM
                             [**2195-2-13**]  12:16 AM
                             [**2195-2-13**]  05:21 AM
                             [**2195-2-13**]  05:29 AM
                             [**2195-2-13**]  10:19 AM
                             [**2195-2-13**]  02:36 PM
                             [**2195-2-13**]  09:28 PM
                             [**2195-2-14**]  02:50 AM
                             [**2195-2-14**]  07:42 AM
   WBC
   6.3
   3.2
   2.2
   2.9
   Hct
   31.4
   27.2
   29.6
   27.7
   24.5
   25.8
   24.6
   25.7
   Plt
   50
   39
   27
   25
   27
   Cr
   0.5
   0.4
   0.5
   TCO2
   30
   33
   Glucose
   131
   108
   106
   Other labs: PT / PTT / INR:16.6/26.3/1.5, ALT / AST:82/170, Alk Phos /
   T Bili:80/15.4, Differential-Neuts:73.8 %, Lymph:17.5 %, Mono:5.9 %,
   Eos:2.5 %, D-dimer:2541 ng/mL, Fibrinogen:208 mg/dL, Lactic Acid:2.8
   mmol/L, Albumin:2.5 g/dL, LDH:263 IU/L, Ca++:7.5 mg/dL, Mg++:2.2 mg/dL,
   PO4:1.8 mg/dL
   Assessment and Plan
   This is a 42 year-old male with a history of HCV cirrhosis s/p TIPS
   [**2182**] who presents with epistaxis
   .
   Plan:
   #Comfort Measures- Discussion had with family and given very poor
   prognosis, patient was made comfort measures only. He was started on
   morphine overnight.
   #. Upper GI Bleed: Pt with hematemsis at [**Hospital1 251**] and was intubated.
   Pt with continued bleeding in the ED.  Pt with HCV cirrhosis s/p TIPS
   for prior variceal bleed in [**2182**].  Pt with large amout of bright red
   blood emesis ~2L at OSH. Pt blood pressure stable SBP 120's, but
   episodes of tachycardia.  Continued bleeding via the left nare s/p
   packing.  Patient underwent EGD which showed esophageal varicies with
   stigmata of recent bleed, but no active bleeding. Duodenal ulcer (no
   active bleeding) that was injected. He underwent tagged rbc scan which
   did not show active nasopharyngeal bleeding site nor any UGI/LGI bleed.
   Ultrasound showed TIPS is patent.. Currently presume bleed is
   nasopharyngeal in origin but likely had some variceal  bleeding, Hct
   remains stable and no further bleeding.
   .
   #. HCV cirrhosis s/p TIPS. MELD of 13. MRCP showed extensive multifocal
   HCC and  concern for HCC mass  that may be compressing part of tips.
   HCV viral load 70K and AFP 21K. Given degree of HCC is not a transplant
   candidate. Currently has hepatic encepatholopathy as well. Oncology
   consulted and felt prognosis very poor on the order of weeks
   .
 COMFORT CARE (CMO, COMFORT MEASURES)
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Cordis/Introducer - [**2195-2-11**] 02:03 AM
   18 Gauge - [**2195-2-11**] 05:17 PM
   Prophylaxis:
   DVT: (Systemic anticoagulation: None)
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition: